US04613680
Preparation of (Z)-3-Hexenyl Angelate
A mixture of 20.0 g. of methyl angelate, 26.34 g. of (Z)-3-hexenyl alcohol, 100 ml. of toluene and 1.2 g. of dioctyltin laurate was placed in a 300 ml. glass flask, which was equipped with a Soxhlet extractor filled on the top with molecular sieve 4A and a reflux cooler.

reactant | methyl angelate | C(\C(\C)=C/C)(=O)OC | C6H10O2
reactant | (Z)-3-hexenyl alcohol | C(C\C=C/CC)O | C6H12O
reactant | dioctyltin laurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCC)[Sn+2]CCCCCCCC.C(CCCCCCCCCCC)(=O)[O-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (Z)-3-Hexenyl Angelate | C(\C(\C)=C/C)(=O)OCC\C=C/CC | C11H18O2
